US08445501B2
4-(5-Propoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid ((R)-1-propionyl-pyrrolidin-3-yl)-amide
Starting from 4-(5-propoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (R)-pyrrolidin-3-ylamide (example A178) and propionyl chloride the title compound was obtained as colorless solid.

reactant | 4-(5-propoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (R)-pyrrolidin-3-ylamide | N1C[C@@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCCC | C21H23N5O4
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | 4-(5-Propoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid ((R)-1-propionyl-pyrrolidin-3-yl)-amide | C(CC)(=O)N1C[C@@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCCC | C24H27N5O5
